US05691384
Combine 4-(4-chlorobutoxy)benzophenone (8.1 kg, 13.47 mol) and tetrahydrofuran (60 L). Add a solution of benzylmagnesium chloride (21 L, 1.67M in tetrahydrofuran, 35 mol) over about 2.5 hours. After 2 hours, cautiously add aqueous saturated ammonium chloride solution (9 L) over about 1 hour and a precipitate forms. Filter the reaction mixture, rinse with tetrahydrofuran, and extract the filtrate with aqueous saturated sodium chloride solution. Evaporate the separated organic layer in vacuo to give 1-(4-chlorobutoxy)phenyl-1,2-diphenyl ethanol.

reactant | 4-(4-chlorobutoxy)benzophenone | 13.47 mol, 8.1 kg | ClCCCCOC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C17H17ClO2
reactant | benzylmagnesium chloride | 35 mol, 1.67M, 21 L | C(C1=CC=CC=C1)[Mg]Cl
reactant | ammonium chloride | 9 L | [Cl-].[NH4+]
solvent | tetrahydrofuran | 60 L | O1CCCC1 | C4H8O
product | 1-(4-chlorobutoxy)phenyl-1,2-diphenyl ethanol | ClCCCCOC1(CC=CC=C1)C(CC1=CC=CC=C1)(O)C1=CC=CC=C1 | C24H27ClO2
